US07176210B2
Preparation of Intermediate 7-Chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine (I-1A-1d)
To a solution of 7-chloro-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (I-1A-1c; 6.00 g, 22.7 mmol) in chloroform (23 ml) and methylene chloride (207 ml) cooled in an ice bath was added N-iodosuccinimide (7.67 g, 34.1 mmol), portionwise. The ice bath was removed and the reaction was stirred overnight at room temperature. After concentrating the red-brown reaction, in vacuo, an ethyl acetate solution of the residue was washed with saturated aqueous Na2S2O4 and brine. The solution was dried (MgSO4), concentrated, in vacuo, and the resulting solids repulped at room temperature from ethyl acetate (30 ml) to give product I-1A-1d as a solid (6.8 g, 77%): +APcI MS (M+1) 390.1; 1H NMR (400 MHz, CD2Cl2) δ 8.52 (d, J=4.6 Hz, 1H), 7.59–7.56 (m, 1H), 7.53–7.42 (m, 3H), 7.14 (d, J=4.6 Hz, 1H).

reactant | 7-chloro-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | 22.7 mmol, 6.00 g | ClC1=CC=NC=2N1N=C(C2)C2=C(C=CC=C2)Cl | C12H7Cl2N3
reactant | N-iodosuccinimide | 34.1 mmol, 7.67 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 23 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 207 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine | 6.8 g, 77% | ClC1=CC=NC=2N1N=C(C2I)C2=C(C=CC=C2)Cl | C12H6Cl2IN3
